US05134148
Using the procedure described in Example 1, 3-(2-pyridyl)prop-2-yn-1-yl bromide hydrobromide was reacted with (2RS,3SR)-3-(3-hydroxyphenyl)-3-methoxy-2-methyltetrahydrofuran to give (2RS,3SR)-3-methoxy-2-methyl-3-[3-(3-(2-pyridyl)prop-2-yn-1-yloxy)phenyl]tetrahydrofuran, as an oil in 90% yield.

reactant | 3-(2-pyridyl)prop-2-yn-1-yl bromide hydrobromide | Br.N1=C(C=CC=C1)C#CCBr
reactant | (2RS,3SR)-3-(3-hydroxyphenyl)-3-methoxy-2-methyltetrahydrofuran | OC=1C=C(C=CC1)C1(C(OCC1)C)OC | C12H16O3
product | (2RS,3SR)-3-methoxy-2-methyl-3-[3-(3-(2-pyridyl)prop-2-yn-1-yloxy)phenyl]tetrahydrofuran | 90% yield | COC1(C(OCC1)C)C1=CC(=CC=C1)OCC#CC1=NC=CC=C1 | C20H21NO3
